US05840732
ii) Synthesis of 5-(5-phenylpentylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 2.627 g (5.6 mmol) of 5-(5-phenylpentylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.5 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was crystallized from dichloromethane-diethyl ether to yield 2.37 g (84.3%, white crystal) of the desired product.

reactant | 5-(5-phenylpentylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 5.6 mmol, 2.627 g | C1(=CC=CC=C1)CCCCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C25H27N3O2S2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-(5-phenylpentylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCCCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C25H27N3O2S2.ClH/c29-24-21(13-6-2-5-12-20-10-3-1-4-11-20)32-25(30)28(24)17-7-8-19-31-23-15-9-14-22-26-16-18-27(22)23;/h1,3-4,9-11,13-16,18H,2,5-8,12,17,19H2;1H
